US04049421
2-(N,N-diethylamino)-3,5-dinitrothiophene
A solution of 8.9 g (0.042 mol) 2-chloro-3,5-dinitrothiophene, 6.2 g (0.084 mol) diethylamine and 100 ml methanol was heated under reflux for 1/2 hour. The reaction mixture was evaporated under reduced pressure, washed with water and extracted with ether. The ether extracts were dried and evaporated to give an oil. The oil was chromatographed on silica gel (30% ether-hexane eluant) to give 7.0 g of product as an amber oil. Elemental analysis for C8H11N3O4S showed: %S, calc. 13.05, found 13.05.

reactant | 2-chloro-3,5-dinitrothiophene | 0.042 mol, 8.9 g | ClC=1SC(=CC1[N+](=O)[O-])[N+](=O)[O-] | C4HClN2O4S
reactant | diethylamine | 0.084 mol, 6.2 g | C(C)NCC | C4H11N
solvent | methanol | 100 ml | CO | CH4O
product | 2-(N,N-diethylamino)-3,5-dinitrothiophene | 7.0 g | C(C)N(CC)C=1SC(=CC1[N+](=O)[O-])[N+](=O)[O-] | C8H11N3O4S
